US05760054
1,1-Dioxido-2-(4-(4-(2-oxo-3-benzoxazolinyl)-piperidin-1-yl)-butyl)-5-(2-propyl)-1,2-benzothiazol-3(2H)-one
From 4-(2-oxo-3-benzoxazolinyl)-piperidine and 2-(4-hydroxybutyl)-1,1-dioxido-5-(2-propyl)-1,2-benzothiazol-3(2H)-one using the procedure described for Example 66, Steps 4-6 there was obtained a white solid: 1H NMR (400 MHz, CDCl3) 7.9 (s, 1H), 7.8 (d, 1H), 7.7 (d, 1H), 7.3 (m, 1H), 7.2-7.0 (br m, 3H), 4.2 (m, 1H), 3.8 (m, 2H), 3.1 (m, 3H), 2.7-2.5 (br m, 2H), 2.1 (m, 2H), 2.0-1.8 (br m, 4H), 1.7-1.6 (m, 4H), 1.35 (d, 6H) Analysis calculated for C25H30 N3O6S·HCl·1.6 CH3CO2CH2CH3 C: 57.64, H: 6.69, N: 6.23 found C: 57.06, H: 6.12, N: 6.56.

reactant | 4-(2-oxo-3-benzoxazolinyl)-piperidine | O=C1OC2=C(N1C1CCNCC1)C=CC=C2 | C12H14N2O2
reactant | 2-(4-hydroxybutyl)-1,1-dioxido-5-(2-propyl)-1,2-benzothiazol-3(2H)-one | OCCCCN1S(C2=C(C1=O)C=C(C=C2)C(C)C)(=O)=O | C14H19NO4S
solvent | CH3CO2CH2CH3 | CC(=O)OCC | C4H8O2
product | 1,1-Dioxido-2-(4-(4-(2-oxo-3-benzoxazolinyl)-piperidin-1-yl)-butyl)-5-(2-propyl)-1,2-benzothiazol-3(2H)-one | O=S1(N(C(C2=C1C=CC(=C2)C(C)C)=O)CCCCN2CCC(CC2)N2C(OC1=C2C=CC=C1)=O)=O | C26H31N3O5S
